US05821090
Guanosine triphosphate (GTP) is converted by GTP cyclohydrolase II (rib 1 gene product) into 2,5-diamino-6-ribosylamino-4(3H)-pyrimidinone 5-phosphate. This compound is subsequently reduced by the rib 7 gene product to 2,5-diaminoribitylamino-2,4(1H,3H)-pyrimidine 5-phosphate and then deaminated by the rib 2 gene product to 5-amino-6-ribitylamino-2,4(1H,3H)-pyrimidinedione. Subsequently, in a reaction catalyzed by the rib 4 gene product, the C4 compound DBP is added on to result in 6,7-dimethyl-8-ribitvllumazine (DMRL), from which riboflavin is produced in the reaction catalyzed by the rib 5 gene product. The C4 compound DBP (L-3,4-dihydroxy-2-butanone 4-phosphate) is formed from D-ribulose 5-phosphate in a reaction catalyzed by the rib 3 gene product.

reactant | Guanosine triphosphate | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O)O | C10H16N5O14P3
reactant | 5-amino-6-ribitylamino-2,4(1H,3H)-pyrimidinedione | C([C@@H]([C@@H]([C@@H](CO)O)O)O)NC1=C(C(=O)NC(=O)N1)N | C9H16N4O6
reactant | 6,7-dimethyl-8-ribitvllumazine | CC1=C(N(C2=NC(=O)NC(=O)C2=N1)C[C@@H]([C@@H]([C@@H](CO)O)O)O)C | C13H18N4O6
product | riboflavin | CC=1C=C2C(=CC1C)N(C3=NC(=O)NC(=O)C3=N2)C[C@@H]([C@@H]([C@@H](CO)O)O)O | C17H20N4O6
